US04948896
Diethyl 1-amino-1,2-ethylenedicarboxylate (1.0 g) and acrolein monomer (0.39 g) are dissolved in n-butanol (10 ml), and thereto is added p-toluenesulfonic acid (20 mg). The mixture is refluxed for 10 hours, and thereto is added additional acrolein monomer (0.1 g), and the mixture is refluxed for 5 hours (the degree of reaction of aminodiester is 91%). After distilling off the solvent, the residue is distilled under reduced pressure to give diethyl pyridine-2,3-dicarboxylate (0.86 g, 72.3%). The product has a boiling point of 135°-145° C. (3 Torr) and a purity of 96.4% by gas chromatographic analysis.

reactant | Diethyl 1-amino-1,2-ethylenedicarboxylate | 1.0 g | NC(CC(=O)OCC)C(=O)OCC | C8H15NO4
reactant | acrolein | 0.39 g | C(=O)C=C | C3H4O
reactant | acrolein | 0.1 g | C(=O)C=C | C3H4O
solvent | n-butanol | 10 ml | C(CCC)O | C4H10O
catalyst | p-toluenesulfonic acid | 20 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | diethyl pyridine-2,3-dicarboxylate | 0.86 g, 72.3% | N1=C(C(=CC=C1)C(=O)OCC)C(=O)OCC | C11H13NO4
